US07429597B2
6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonyl-propylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 15c from 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-benzyloxycarbonyl-propylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline and trimethylsilyl iodide.

reactant | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-benzyloxycarbonyl-propylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Cl | C31H28Cl2N6O3
reactant | trimethylsilyl iodide | C[Si](C)(C)I | C3H9ISi
product | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonyl-propylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)N[C@@H](CCC(=O)O)C1=NC2=C(N1)C=CC(=C2)Cl | C24H22Cl2N6O3
